### PR TITLE
feat: contractive and nonexp tactics

### LINKED ISSUE #123: Contractivity tactic
One useful tactic in Iris is [f_contractive](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/algebra/ofe.v#L403), for proving that a given function is contractive. This tactic is commonly used in the definition of weakest preconditions, for example [here](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/program_logic/weakestpre.v?ref_type=heads#L82). 

In my experience, this tactic is somewhat fragile (see how we use it in [Clutch](https://github.com/logsem/clutch/blob/414c60e0e68a52f4031ac5237c462841e354c439/theories/eris/weakestpre.v#L727)). We could try porting it directly, but I think we could see if the existing Lean solvers like `grind` or appropriately defined simpproc's could help us discharge these goals automatically.

### PR DESCRIPTION
**Pull request by oliversoeser**
## Description
Implements `contractive` and `nonexp` tactics to automatically solve `OFE.Contractive` and `OFE.NonExpansive` goals, respectively.

Closes #123 

## Checklist
* [x] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [x] I have added my name to the `authors` section of any appropriate files

### CODE REVIEW

**Comment by markusdemedeiros** [comment]
This is sweet! I think we should wait until #550 is merged though, since it is still a debated question how this new parameter is going to be inferred, and this will probably change your tactic.

File: Iris/Iris/Algebra/NonExp.lean [hunk 1]
```diff
@@ -0,0 +1,147 @@
...
+meta def simpThenRecurse (k : MVarId → TacticM Unit) : TacticM Bool := do
+  if let some _ ← observing? (evalTactic <| ← `(tactic|simp)) then
+    if let some newGoal ← observing? getMainGoal then
+      k newGoal
+    return true
+  return false
+
+meta partial def contractiveMain (goal : MVarId) (guarded : Bool) : TacticM Unit := do
+  if ← goal.isAssigned then return
+  trace[NonExp] "Goal: {← goal.getType}"
```
Comment (MackieLoeffel) [inline Iris/Iris/Algebra/NonExp.lean:95]: I tried using the tactic and it failed without giving any information. So I added some rudimentary tracing to the tactic, but it is currently not great. For example, it does not show what instances were tried or which step succeeded. Can you add better tracing information?

File: Iris/Iris/Instances/Lib/LaterCredits.lean [hunk 2]
```diff
@@ -269,6 +257,7 @@ instance : NonExpansive (le_upd (GF := GF)) where
     intro m IH P Q H
     refine ((equiv_iff.mpr le_upd_unfold).dist).trans ?_
     refine .trans ?_ ((equiv_iff.mpr le_upd_unfold).dist).symm
+    -- TODO: Why does nonexp not work here?
     refine forall_ne (fun i => ?_)
```
Comment (MackieLoeffel) [inline Iris/Iris/Instances/Lib/LaterCredits.lean:261]: I tried using `nonexp` here and it failed. Do you know why?

In general, I think it would be good to make a pass over the repo and use `nonexp` and `contractive` for all `NonExpansive` and `Contractive` obligations.

File: Iris/Iris/Instances/Lib/SavedProp.lean [hunk 3]
```diff
@@ -290,9 +290,10 @@ variable {GF : BundledGFunctors} {A : Type _} [SavedPredG GF A]
 
 @[rocq_alias saved_pred_own_contractive]
 instance saved_pred_own_contractive (γ : GName) (dq : DFrac) :
-    Contractive (saved_pred_own (GF := GF) (A := A) γ dq) :=
-  ⟨fun {_ _ _} h => saved_anything_ne γ dq |>.ne
-    (fun a => NextContractive.distLater_dist (fun m hm => h m hm a))⟩
+    Contractive (saved_pred_own (GF := GF) (A := A) γ dq) where
+  distLater_dist := -- TODO: Why does by contractive not work here?
+  fun {_ _ _} h => saved_anything_ne γ dq |>.ne
```
Comment (MackieLoeffel) [inline Iris/Iris/Instances/Lib/SavedProp.lean:295]: I tried using `by contractive` here and it failed. Do you know why?

File: Iris/IrisTest/NonExp.lean [hunk 4]
```diff
@@ -0,0 +1,61 @@
...
+section contractive
+
+variable [OFE α] [BI PROP] [BILaterContractive PROP]
+
+/- Identity is non-expansive. -/
+example : NonExpansive (fun x : α => x) where
+  ne := by nonexp
+
+/- `nonexp` should also work when directly called on a NonExpansive goal -/
+example : NonExpansive (fun x : α => x) := by nonexp
```
Comment (MackieLoeffel) [inline Iris/IrisTest/NonExp.lean:26]: I think `nonexp` should also work when directly called on a `NonExpansive` goal. Otherwise, it will be very confusing for the users. Same for `contractive`. Can you make this work?

File: Iris/Iris/Algebra/NonExp.lean [hunk 5]
```diff
@@ -0,0 +1,147 @@
...
+  while ← distIsForall <| ← getMainTarget do
+    evalTactic <| ← `(tactic|intro)
+
+  tryUnfoldFn
+
+elab "contractive" : tactic => do
+  contractiveSetup
+  contractiveMain (← getMainGoal) false
+
+elab "nonexp" : tactic => do
```
Comment (MackieLoeffel) [inline Iris/Iris/Algebra/NonExp.lean:141]: Do we actually need two different tactics for `nonexp` and `contractive` or can they be unified into a single tactic?

File: Iris/Iris/Algebra/NonExp.lean [hunk 6]
```diff
@@ -0,0 +1,147 @@
...
+
+  -- uses an OFE.Contractive instance
+  if not guarded then
+    if ← tryStep (contractiveMain · true) distInstanceStep goal then return
+
+  -- applies an OFE.DistLater hypothesis
+  if ← tryStep (contractiveMain · guarded) distLaterStep goal then return
+
+  -- applies a non-expansive lemma
+  if ← tryStep (contractiveMain · guarded) nonexpStep goal then return
```
Comment (MackieLoeffel) [inline Iris/Iris/Algebra/NonExp.lean:109]: This implementation is based on backtracking between the different options. Do we actually need the backtracking or can we just stick with the first case that works?

**Review by MackieLoeffel — COMMENTED** [review]
Thanks for the PR and sorry for the delay in reviewing. I slightly cleaned up the PR and moved around some files. Overall the PR looks nice, but I tried using `nonexp` and `contractive` in more places in the repo and ran into some problems. See the comments below.
